US04988785
Diallyl indane bisphenol (DA-IBP) was prepared as described above. Diallyl bisphenol A (DA-BPA) and methylene dianiline bismaleimide (MDA-BMI) were obtained from Ciba-Geigy as Matrimide 5292 components A and B respectively, the purity of which was undetermined.

reactant | Diallyl bisphenol A | C(C=C)C=1C(=C(O)C=CC1C(C)(C)C1=CC=C(C=C1)O)CC=C | C21H24O2
reactant | methylene dianiline bismaleimide | C1(C=CC(N1)=O)=O.C1(C=CC(N1)=O)=O.C(NC1=CC=CC=C1)NC1=CC=CC=C1
product | Diallyl indane bisphenol | C1(=CC=CC=C1)O.C1(=CC=CC=C1)O.C(C=C)C1(CCC2=CC=CC=C12)CC=C | InChI=1S/C15H18.2C6H6O/c1-3-10-15(11-4-2)12-9-13-7-5-6-8-14(13)15;2*7-6-4-2-1-3-5-6/h3-8H,1-2,9-12H2;2*1-5,7H
